US07713994B2
To a solution of N-[4-(3-dimethylamino-propyl)-phenyl]-acetamide (0.50 mmol maximum) in methanol (8 mL) is added 20% aqueous hydrochloric acid solution. After 3½ hours of shaking at 56° C., an additional 2 drops of concentrated hydrochloric acid is added and shaking is continued for 3 days. The mixture is concentrated to give 4-(3-dimethylamino-propyl)-phenylamine hydrochloride, which is used without further purification in the following step.

reactant | N-[4-(3-dimethylamino-propyl)-phenyl]-acetamide | 0.50 mmol | CN(CCCC1=CC=C(C=C1)NC(C)=O)C | C13H20N2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | 4-(3-dimethylamino-propyl)-phenylamine hydrochloride | Cl.CN(CCCC1=CC=C(C=C1)N)C | InChI=1S/C11H18N2.ClH/c1-13(2)9-3-4-10-5-7-11(12)8-6-10;/h5-8H,3-4,9,12H2,1-2H3;1H
